US05952325
Dispiro[benzofuran-3(2H),1'-cyclohexane-4',2"-[1,3]dioxolane]
Sodium hydride (80% in mineral oil, 1.53 g, 51 mmol) was stirred in dry DMF (30 ml) as 4'-(2-fluorophenyl)-4'-(hydroxymethyl)spiro[[1,3]-dioxolane-2,1 '-cyclohexane] (D22, 5.44 g, 20 mmol) was added in dry DMF (70 ml). The mixture was stirred under Ar at 110° C. for 6 h, cooled, diluted with ethyl acetate (500 ml), washed with water and brine, dried (Na2SO4) and evaporated to give the title compound (4.83 g, 96%) as a straw-coloured solid.

reactant | Sodium hydride | 51 mmol, 1.53 g | [H-].[Na+]
reactant | 4'-(2-fluorophenyl)-4'-(hydroxymethyl)spiro[[1,3]-dioxolane-2,1 '-cyclohexane] | 20 mmol, 5.44 g | FC1=C(C=CC=C1)C1(CCC2(CC1)OCCO2)CO | C15H19FO3
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | Dispiro[benzofuran-3(2H),1'-cyclohexane-4',2"-[1,3]dioxolane] | 4.83 g, 96% | O1C2(OCC1)CCC1(CC2)COC2=C1C=CC=C2 | C15H18O3
